US04415572
o-Nitroaniline (300 g, 2.17 mols) was dissolved in acetic anhydride (620 ml) and stirred at 40°-50° C. for 3 hours. The reaction mixture was poured in ice water. Crystals which formed were collected by filtration and dried. o-Acetylaminonitrobenzene thus-obtained was suspended in methanol (2.4 l). After adding 20 g of 10% palladium-carbon, the suspension was subjected to catalytic reduction at room temperature and atmospheric pressure. After completion of reaction, the catalyst was removed by filtration and the solvent was distilled off under reduced pressure to precipitate crystals which then were washed with ethanol and dried over phosphorus pentoxide under reduced pressure to give 248 g of o-aminoacetanilide.

reactant | o-Nitroaniline | 2.17 mols, 300 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | acetic anhydride | 620 ml | C(C)(=O)OC(C)=O | C4H6O3
product | o-Acetylaminonitrobenzene | C(C)(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C8H8N2O3
